US06835844B2
Next, 40.0 g (0.39 mol) of triethylamine was added dropwise to a solution of 50.0 g (0.13 mol) of 2-(3-chloropropionylthiomethyl)-4-(3-chloropropionyloxymethyl)-1,3-dithiolan prepared above dissolved in 195 g of acetone at 2 to 5° C. in 1 hour. They were allowed to react at the same temperature for 1.5 hours, with stirring, to which 520 g of water was added. The resultant mixture was treated with 520 g of toluene to extract the reaction product. The extract organic phase (toluene solution) was washed with water until the aqueous phase turned neutral. Then, the organic phase was separated out, incorporated with 0.12 g of 4-methoxyphenol as a polymerization inhibitor, and distilled under a vacuum to be concentrated while removing toluene, to obtain a lightly yellowish, transparent liquid as a crude product. The crude product thus prepared was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate mixture), to obtain 29.0 g of 2-acryloylthiomethyl-4-acryloyloxymethyl-1,3-dithiolan, which was a colorless, transparent liquid, in a yield of 77%.

reactant | triethylamine | 0.39 mol, 40.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-(3-chloropropionylthiomethyl)-4-(3-chloropropionyloxymethyl)-1,3-dithiolan | 0.13 mol, 50.0 g | ClCCC(=O)SCC1SCC(S1)COC(CCCl)=O | C11H16Cl2O3S3
reactant | water | 520 g | O | H2O
reactant | toluene | 520 g | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 195 g | CC(=O)C | C3H6O
product | 2-acryloylthiomethyl-4-acryloyloxymethyl-1,3-dithiolan | 29.0 g, yield of 77% | C(C=C)(=O)SCC1SCC(S1)COC(C=C)=O | C11H14O3S3
